US07576062B2
At 0° C., N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.30 g, 6.76 mmol) was added to a solution of (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid (1.89 g, 6.76 mmol) and 1-hydroxy-7-azabenzotriazole 0.92 g, 6.76 mmol) in dichloromethane (10 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of the crude dihydrochloride salt of N-dimethyl-N-(((2S)-pyrrolidin-2-yl)methyl)amine (1.36 g, 6.76 mmol) in dichloromethane (10 ml) and N,N-dimethylformamide (10 ml) and ethyldiisopropylamine (5.75 ml, 33.8 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (100 ml) and washed with a saturated aqueous solution of sodium hydrogen carbonate (100 ml). The aqueous phase was extracted with ethyl acetate (3×80 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 2.26 g of N-[(1R)-1-benzyl-2-((2S)-2-((dimethylamino)methyl)pyrrolidin-1-yl)-2-oxoethyl]-N-methylcarbamic acid tert-butyl ester.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 6.76 mmol, 1.30 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid | 6.76 mmol, 1.89 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 6.76 mmol, 0.92 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | ethyldiisopropylamine | 33.8 mmol, 5.75 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-[(1R)-1-benzyl-2-((2S)-2-((dimethylamino)methyl)pyrrolidin-1-yl)-2-oxoethyl]-N-methylcarbamic acid tert-butyl ester | 2.26 g | C(C)(C)(C)OC(N(C)[C@@H](C(=O)N1[C@@H](CCC1)CN(C)C)CC1=CC=CC=C1)=O | C22H35N3O3
